US09169259B2
tert-Butyl-4-(3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzylamino)piperidine-1-carboxylate (35 mg, 0.06 mmol) was dissolved in HCl gas in dichloromethane (5 mL). The solution was stirred at room temperature for 2 h. The solvent was concentrated in vacuo to give N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)-6-(3-((piperidin-4-ylamino)methyl)phenyl)imidazo[1,2-b]pyridazin-8-amine hydrochloride (35 mg, 109%) as a yellow solid. 1H NMR (300 MHz, DMSO+D2O): δ 9.18 (s, 1H), 8.49 (s, 1H), 8.27 (s, 1H), 8.17 (s, 1H), 7.99 (d, 1H, J=7.5 Hz), 7.80 (d, 1H, J=7.5 Hz), 7.68 (t, 1H, J=7.5 Hz), 7.53 (t, 1H, J=7.8 Hz), 6.60 (d, 1H, J=7.5 Hz), 6.19 (d, 1H, J=8.4 Hz), 4.28-4.21 (m, 3H), 3.53-3.38 (m, 5H), 2.95 (t, 2H, J=12.3 Hz), 2.31-2.28 (m, 2H), 2.07-1.68 (m, 6H), 1.06 (d, 3H, J=6.0 Hz). LC/MS: 486 [M+H]+, tR=0.85 min. HPLC: 100% at 214 nm, 99.89% at 254 nm, tR=4.58 min.

reactant | tert-Butyl-4-(3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzylamino)piperidine-1-carboxylate | 0.06 mmol, 35 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC1=CC(=CC=C1)C=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C33H42N8O2
reactant | HCl | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)-6-(3-((piperidin-4-ylamino)methyl)phenyl)imidazo[1,2-b]pyridazin-8-amine hydrochloride | 35 mg, 109% | Cl.CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C1=CC(=CC=C1)CNC1CCNCC1)C=CN2 | InChI=1S/C28H34N8.ClH/c1-20-5-4-15-35(20)27-9-3-8-26(33-27)32-25-18-24(34-36-16-14-30-28(25)36)22-7-2-6-21(17-22)19-31-23-10-12-29-13-11-23;/h2-3,6-9,14,16-18,20,23,29,31H,4-5,10-13,15,19H2,1H3,(H,32,33);1H
